US04837242
0.20 g of N-(1,1,3-trimethyl-4-indanyl)-2-methyl-4-trifluoromethylthiazole-5-carboxamide and 0.18 g of 2,4-bis(methylthio)-1,3,2,4-dithiadiphosphetan-2,4-disulfide were dissolved in 5 ml of tetrahydrofuran and reaction was effected for 10 hours under reflux. The reaction mixture was concentrated and the residue was chromatographed on silica gel (eluent; n-hexane:chloroform:tetrahydrofuran=6:2:1) to obtain 0.14 g of N-(1,1,3-trimethyl-4-indanyl)-2-methyl-4-trifluoromethylthiazole-5-carbothioamide (yield 65%).

reactant | N-(1,1,3-trimethyl-4-indanyl)-2-methyl-4-trifluoromethylthiazole-5-carboxamide | 0.20 g | CC1(CC(C2=C(C=CC=C12)NC(=O)C1=C(N=C(S1)C)C(F)(F)F)C)C | C18H19F3N2OS
reactant | 2,4-bis(methylthio)-1,3,2,4-dithiadiphosphetan-2,4-disulfide | 0.18 g | CSP1(SP(S1)(SC)=S)=S | C2H6P2S6
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(1,1,3-trimethyl-4-indanyl)-2-methyl-4-trifluoromethylthiazole-5-carbothioamide | 0.14 g, yield 65% | CC1(CC(C2=C(C=CC=C12)NC(=S)C1=C(N=C(S1)C)C(F)(F)F)C)C | C18H19F3N2S2
